US07842688B2
h) [4-Methyl-3-(2-triisopropylsilanyloxyethoxy)phenyl]methanol
The solution of 2.0 g of 2-triisopropylsilanyloxyethyl 4-methyl-3-(2-triisopropylsilanyloxyethoxy)benzoate in 6 ml of tetrahydrofuran is added dropwise at 20-40° C. to the stirred mixture of 0.149 g of lithium aluminium hydride in 6 ml of tetrahydrofuran. The reaction mixture is stirred at 40° C. over 4 hours and subsequently cooled to room temperature. 0.6 ml of water, 0.6 ml of 2N NaOH and once again 0.6 ml of water are added dropwise successively and the suspension is stirred at room temperature over 1 hour. The reaction mixture is poured onto 100 ml of 2N HCl (cold) and extracted with ethyl acetate (2×100 ml). The organic phases are washed successively with 2N HCl (100 ml), water (100 ml) and brine (1×100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.71 (1:1 EtOAc-heptane); Rt=6.30.

reactant | 2-triisopropylsilanyloxyethyl 4-methyl-3-(2-triisopropylsilanyloxyethoxy)benzoate | 2.0 g | CC1=C(C=C(C(=O)OCCO[Si](C(C)C)(C(C)C)C(C)C)C=C1)OCCO[Si](C(C)C)(C(C)C)C(C)C | C30H56O5Si2
reactant | lithium aluminium hydride | 0.149 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 2N, 0.6 ml | [OH-].[Na+]
reactant | HCl | 2N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 0.6 ml | O | H2O
solvent | water | 0.6 ml | O | H2O
product | [4-Methyl-3-(2-triisopropylsilanyloxyethoxy)phenyl]methanol | CC1=C(C=C(C=C1)CO)OCCO[Si](C(C)C)(C(C)C)C(C)C | C19H34O3Si
